US04450164
A solution of 26 g of 8-benzyloxy-3-cyanomethyl-2-methyl-imidazo[1,2-a]pyridine, 50 ml of 15% sodium hydroxide solution 100 ml of water, and 100 ml of ethanol was heated at reflux for 6 hrs. The reaction mixture was distilled until 100 ml of distillate had been collected. The aqueous portion was washed twice with dichloromethane and then treated with a 6 N hydrochloric acid to pH 6. Filtration afforded 8-benzyloxy-2-methyl-imidazo[1,2-a]pyridine-3-acetic acid. 2.0 g of this acid was added to 1 g of lithium aluminium hydride in 100 ml of tetrahydrofuran and was stirred for 5 hrs. at room temperature. The reaction mixture was treated with 1 ml of water, 1 ml of 15% sodium hydroxide solution, then with 3 ml of water. Filtration of salts and evaporation of the filtrate gave the title product after recrystallizationfrom acetonitrile (m.p. 134°-138° C.).

reactant | 8-benzyloxy-3-cyanomethyl-2-methyl-imidazo[1,2-a]pyridine | 26 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)CC#N | C17H15N3O
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 8-benzyloxy-2-methyl-imidazo[1,2-a]pyridine-3-acetic acid | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)CC(=O)O | C17H16N2O3
